US09403835B2
Step 1: 2-(diethoxy-phosphorylmethyl)-benzoic acid methyl ester
A mixture of 2-bromomethyl-benzoic acid methyl ester (5 g; 21.83 mmol; 1 eq.) and phosphorous acid triethyl ester (4.53 mL; 26.19 mmol; 1.2 eq.) was stirred at 150° C. for 16 hours then concentrated in vacuo to afford the title compound (6.54 g, quantitative) a yellow oil. HPLC (max plot) 88.8%; Rt 3.11 min.

reactant | 2-bromomethyl-benzoic acid methyl ester | 21.83 mmol, 5 g, 1 eq. | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | phosphorous acid triethyl ester | 26.19 mmol, 4.53 mL, 1.2 eq. | C(C)OP(OCC)OCC | C6H15O3P
product | 2-(diethoxy-phosphorylmethyl)-benzoic acid methyl ester | 6.54 g | COC(C1=C(C=CC=C1)CP(=O)(OCC)OCC)=O | C13H19O5P
